* Transient testbench adapted from AnalogGym AMP_DFCFC2 for SMCNR_SE_2st_AMP
.include "E:/codex-magical-sky130-harness/magical-sky130-harness/generated/analog_harness/smcnr_se_2st_amp/cand_0031/sim/post_layout/SMCNR_SE_2st_AMP_extracted.raw.ngspice_units.spice"
.temp 27
.param VDDVAL=1.8
.param VCM=0.9
.param IBIAS=10u
.param CLOAD=100f
VDD vdda 0 {VDDVAL}
VGND gnda 0 0
IIB vdda ibias DC {IBIAS}
VINP vip 0 PULSE(0.895 0.905 1e-08 1n 1n 100n 200n)
VINN vin 0 DC {VCM}
CLOAD vout 0 {CLOAD}
XU vdda gnda vin vip ibias vout SMCNR_SE_2st_AMP_flat
.control
tran 1e-09 3e-07
wrdata SMCNR_SE_2st_AMP_Tran v(vout)
.endc
.end
